US07381723B2
8-{[2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl}-3-phenyl-8-azabicyclo[3.2.1]octan-3-ol
(8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-methylbenzenesulfonate (0.375 g, 1.00 mmole) and 3-phenyl-8-aza-bicyclo[3.2.1]-octan-3-ol (0.25 g, 1.2 mmole) were combined in 8 mL of DMSO. This solution was heated to 75-80° C. under nitrogen for 8 hours. After completion, the reaction was cooled to room temperature and diluted to 500 mL with ethyl acetate. The mixture was washed twice with 400 mL portions of saturated aqueous sodium bicarbonate, with 300 mL of water and twice with 400 mL of saturated brine, dried over sodium sulfate, filtered and concentrated in vacuum. The crude oil was column chromatographed on silica gel using first methylene chloride to remove impurities and then 0.5% methanol/methylene chloride to give, after concentration of the product fractions in vacuum, 0.12 g of the (S)-enantiomer of the title compound as an off-white solid, m.p. 203-205° C.

reactant | (8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-methylbenzenesulfonate | 1.00 mmole, 0.375 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3N=C(OC32)C)OC1 | C18H17NO6S
reactant | 3-phenyl-8-aza-bicyclo[3.2.1]-octan-3-ol | 1.2 mmole, 0.25 g | C1(=CC=CC=C1)C1(CC2CCC(C1)N2)O | C13H17NO
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-{[2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl}-3-phenyl-8-azabicyclo[3.2.1]octan-3-ol | CC=1OC2=C(N1)C=CC1=C2OC(CO1)CN1C2CC(CC1CC2)(O)C2=CC=CC=C2 | C24H26N2O4
